US09212182B2
A screw cap vial was charged with (E)-ethyl 3-(2-amino-5-(benzylthio)phenyl)acrylate (1.00 g, 3.19 mmol), xantphos (0.092 g, 0.160 mmol), pd2(dba)3 (0.073 g, 0.080 mmol), cesium carbonate (2.079 g, 6.38 mmol) and CPME (6.38 ml). The vial was purged with Argon, sealed and heated to 110° C. for 10 minutes. The reaction was cooled to room temperature and 2-bromo-3-methoxynaphthalene (0.832 g, 3.51 mmol) was added and the reaction was continued heating at 110° C. for an additional 90 min. The mixture was cooled to room temperature, diluted with EtOAc, and filtered through celite with the aid of EtOAc. The filtrate was concentrated. The oily residue was taken up in 2-PrOH (it did not dissolve and remained an oil). The mixture was then concentrated to give a yellow solid with some oily solid present. The mixture was taken up in 2-PrOH to give a suspension, and the suspension was stirred overnight, which broke up the darker, oily solid. The mixture was then filtered, and the filtered solid was washed with 2-PrOH (3×). The collected solid was dried on the filter under a flow of N2 (g) for 15 min to give (E)-ethyl 3-(5-(benzylthio)-2-((3-methoxynaphthalen-2-yl)amino)phenyl)acrylate (1.35 g, 2.87 mmol, 90% yield). m/z (ESI) 470.1

reactant | (E)-ethyl 3-(2-amino-5-(benzylthio)phenyl)acrylate | 3.19 mmol, 1.00 g | NC1=C(C=C(C=C1)SCC1=CC=CC=C1)/C=C/C(=O)OCC | C18H19NO2S
reactant | cesium carbonate | 6.38 mmol, 2.079 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | CPME | 6.38 ml | COC1CCCC1 | C6H12O
reactant | 2-bromo-3-methoxynaphthalene | 3.51 mmol, 0.832 g | BrC1=CC2=CC=CC=C2C=C1OC | C11H9BrO
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | pd2(dba)3 | 0.080 mmol, 0.073 g | C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | xantphos | 0.160 mmol, 0.092 g | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
product | (E)-ethyl 3-(5-(benzylthio)-2-((3-methoxynaphthalen-2-yl)amino)phenyl)acrylate | 2.87 mmol, 1.35 g, 90% yield | C(C1=CC=CC=C1)SC=1C=CC(=C(C1)/C=C/C(=O)OCC)NC1=CC2=CC=CC=C2C=C1OC | C29H27NO3S
